US04408076
The process of Example 17 is repeated using ethyl 4-[4-(2chloro-4trifluoromethylphenoxy)phenoxy]-3-oxopentanoate (400 mg) and NaBH4 (100 mg) to give ethyl 4-[4-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-3-hydroxypentanoate, MS m/e 432 (M+).

reactant | ethyl 4-[4-(2chloro-4trifluoromethylphenoxy)phenoxy]-3-oxopentanoate | 400 mg | ClC1=C(OC2=CC=C(OC(C(CC(=O)OCC)=O)C)C=C2)C=CC(=C1)C(F)(F)F | C20H18ClF3O5
reactant | NaBH4 | 100 mg | [BH4-].[Na+]
product | ethyl 4-[4-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-3-hydroxypentanoate | ClC1=C(OC2=CC=C(OC(C(CC(=O)OCC)O)C)C=C2)C=CC(=C1)C(F)(F)F | C20H20ClF3O5
